US04642308
The procedure is similar to that described in Example 1, but starting with 3-furancarboxylic acid (7.5 g), N,N'-carbonyldiimidazole (10.9 g) and 2-amino-7-phenoxy-1,8-naphthyridine (11.9 g). The product produced by precipitation in water (13 g; m.p. approximately 90° C.) is dissolved in boiling acetonitrile (80 cc). After 2 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (2×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-furancarboxamide (10.7 g) is produced, m.p. 102° C.

reactant | 3-furancarboxylic acid | 7.5 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 11.9 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
reactant | acetonitrile | 80 cc | C(C)#N | C2H3N
solvent | water | 13 g | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-furancarboxamide | 10.7 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C1=COC=C1 | C19H13N3O3
